US06492465B1
4-(3,5-dimethylphenyl)-2-isopropylindene
4-Chloro-2-isopropylindene (10.4 g, 54 mmol) and NiCl2(PPh3)2 (1.8 g, 2.8 mmol) are dissolved in 150 mL of Et2O. 3,5-dimethylphenylmagnesium bromide (54 mmol) as an Et2O solution was added under vigorous stirring and the reaction was stirred overnight at room temperature. After overnight stirring, the reaction was slowly quenched with H2O to neutralize unreacted Grignard. The solution was subsequently treated with 100 mL of 10% HCl (aq) and neutralized with saturated sodium bicarbonate aqueous solution. The organic layer was dried with magnesium sulfate, and the solvent was removed by rotary evaporation. The remaining residue was loaded onto a silica gel column and eluted with hexane. Yield was 5.5 g (39%).

reactant | 4-Chloro-2-isopropylindene | 54 mmol, 10.4 g | ClC1=C2C=C(CC2=CC=C1)C(C)C | C12H13Cl
reactant | 3,5-dimethylphenylmagnesium bromide | 54 mmol | CC=1C=C(C=C(C1)C)[Mg]Br
solvent | Et2O | 150 mL | CCOCC | C4H10O
catalyst | NiCl2(PPh3)2 | 2.8 mmol, 1.8 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3,5-dimethylphenyl)-2-isopropylindene | CC=1C=C(C=C(C1)C)C1=C2C=C(CC2=CC=C1)C(C)C | C20H22
